### PR TITLE
[Merged by Bors] - feat(UniqueFactorizationMonoid): a `MulEquiv` that commutes with `normalize` preserves `normalizedFactors`

### PR DESCRIPTION
**Pull request by xroblot**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/UniqueFactorizationDomain/NormalizedFactors.lean [hunk 1]
```diff
@@ -297,6 +310,25 @@ theorem normalizedFactors_multiset_prod (s : Multiset α) (hs : 0 ∉ s) :
...
+-/
+def normalizedFactorsEquiv [DecidableEq α] (he : ∀ x, normalize (f x) = f (normalize x)) (a : α) :
+    {x | x ∈ normalizedFactors a} ≃ {y | y ∈ normalizedFactors (f a)} :=
+  Equiv.subtypeEquiv f fun x ↦
+    if ha : a = 0 then by simp [ha] else by
+      simp [mem_normalizedFactors_iff' ha,
+        mem_normalizedFactors_iff' (EmbeddingLike.map_ne_zero_iff.mpr ha), map_dvd_iff_dvd_symm,
+        MulEquiv.irreducible_iff, he]
+
+theorem normalizedFactorsEquiv_apply [DecidableEq α] (he : ∀ x, normalize (f x) = f (normalize x))
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/UniqueFactorizationDomain/NormalizedFactors.lean:328]: This can be `simp`, and we probably want `sym_apply` too.

File: Mathlib/RingTheory/UniqueFactorizationDomain/NormalizedFactors.lean [hunk 2]
```diff
@@ -231,6 +236,14 @@ theorem mem_normalizedFactors_iff [Subsingleton αˣ] {p x : α} (hx : x ≠ 0)
     rw [associated_iff_eq] at hqeq
     exact hqeq ▸ hqmem
 
+theorem mem_normalizedFactors_iff' {p x : α} (h : x ≠ 0) :
```
[the remark this answers is not in the document]
Comment (xroblot) [reply Mathlib/RingTheory/UniqueFactorizationDomain/NormalizedFactors.lean:239]: It's just above...

[the remark this answers is not in the document]
Comment (xroblot) [reply Mathlib/RingTheory/UniqueFactorizationDomain/NormalizedFactors.lean:239]: Well, I mean it's `UniqueFactorizationMonoid.mem_normalizedFactors_iff`. I don't think there is anything in the root namespace

File: Mathlib/RingTheory/UniqueFactorizationDomain/NormalizedFactors.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/RingTheory/UniqueFactorizationDomain/NormalizedFactors.lean:329]: I added the `symm` version and `simp` tags. Note however that I had to mark both as `nolint simpNF` since there is some (non obvious to me) simplification somehow that can be done to the LHS

File: Mathlib/RingTheory/UniqueFactorizationDomain/NormalizedFactors.lean (hunk 2 above)
[the remark this answers is not in the document]
Comment (riccardobrasca) [reply Mathlib/RingTheory/UniqueFactorizationDomain/NormalizedFactors.lean:239]: I don't understand how I missed it :D

File: Mathlib/RingTheory/UniqueFactorizationDomain/NormalizedFactors.lean (hunk 1 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/UniqueFactorizationDomain/NormalizedFactors.lean:329]: What's happening is that `(normalizedFactorsEquiv he a) ⟨p, hp⟩` in the statement has type `↑{y | y ∈ normalizedFactors (f a)}`, where the arrow is the coercion from `Finset` to `Type`. `simp` changes this to the corresponding type `{ x // x ∈ normalizedFactors (f a) }`. Thinks is a good idea to change `normalizedFactorsEquiv` to
```lean
def normalizedFactorsEquiv [DecidableEq α] (he : ∀ x, normalize (f x) = f (normalize x)) (a : α) :
    {x // x ∈ normalizedFactors a} ≃ {y // y ∈ normalizedFactors (f a)} :=
```
and then `nolint simpNF` is not needed anymore.

File: Mathlib/RingTheory/UniqueFactorizationDomain/NormalizedFactors.lean [hunk 3]
```diff
@@ -297,6 +310,32 @@ theorem normalizedFactors_multiset_prod (s : Multiset α) (hs : 0 ∉ s) :
...
+  Equiv.subtypeEquiv f fun x ↦
+    if ha : a = 0 then by simp [ha] else by
+      simp [mem_normalizedFactors_iff' ha,
+        mem_normalizedFactors_iff' (EmbeddingLike.map_ne_zero_iff.mpr ha), map_dvd_iff_dvd_symm,
+        MulEquiv.irreducible_iff, he]
+
+@[simp, nolint simpNF]
+theorem normalizedFactorsEquiv_apply [DecidableEq α] (he : ∀ x, normalize (f x) = f (normalize x))
+    {a p : α} (hp : p ∈ normalizedFactors a) :
+    ↑(normalizedFactorsEquiv he a ⟨p, hp⟩) = f p := rfl
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/UniqueFactorizationDomain/NormalizedFactors.lean:331]:
```suggestion
    normalizedFactorsEquiv he a ⟨p, hp⟩ = f p := rfl
```

File: Mathlib/RingTheory/UniqueFactorizationDomain/NormalizedFactors.lean [hunk 4]
```diff
@@ -297,6 +310,32 @@ theorem normalizedFactors_multiset_prod (s : Multiset α) (hs : 0 ∉ s) :
...
+
+@[simp, nolint simpNF]
+theorem normalizedFactorsEquiv_symm_apply [DecidableEq α]
+    (he : ∀ x, normalize (f x) = f (normalize x))
+    {a : α} {q : β} (hq : q ∈ normalizedFactors (f a)) :
+    ((normalizedFactorsEquiv he a).symm ⟨q, hq⟩) = (MulEquivClass.toMulEquiv f).symm q := rfl
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/UniqueFactorizationDomain/NormalizedFactors.lean:337]:
```suggestion
    (normalizedFactorsEquiv he a).symm ⟨q, hq⟩ = (MulEquivClass.toMulEquiv f).symm q := rfl
```

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/RingTheory/UniqueFactorizationDomain/NormalizedFactors.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/RingTheory/UniqueFactorizationDomain/NormalizedFactors.lean:329]: Oh, indeed. That makes sense! Thanks for the review
